US08247569B2
1-(3-Hydroxy-3-(p-tolyl)propyn-1-yl)cyclohexanol
To a solution of 1-ethynylcyclohexanol (500 mg, 4.02 mmol) in tetrahydrofuran (20 mL), 2.77 M n-butyllithium (solution in n-hexane, 3.6 mL, 9.90 mmol) was added dropwise at −78° C., and the obtained solution was stirred at the same temperature for 1 hour. To the reaction solution, p-tolualdehyde (0.52 mL, 4.40 mmol) was added at −78° C., and the obtained solution was allowed to warm gradually to room temperature with stirring. To the reaction solution, distilled water and 1 M hydrochloric acid were added to make the mixture acidic, and the resultant was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography (silica gel, n-hexane/ethyl acetate) to obtain the captioned compound (598 mg, 2.44 mmol, 61%) as a pale yellow solid.

reactant | 1-ethynylcyclohexanol | 4.02 mmol, 500 mg | C(#C)C1(CCCCC1)O | C8H12O
reactant | n-butyllithium | 9.90 mmol, 2.77 M, 3.6 mL | C(CCC)[Li]
reactant | p-tolualdehyde | 4.40 mmol, 0.52 mL | C1(=CC=C(C=C1)C=O)C | C8H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-(3-Hydroxy-3-(p-tolyl)propyn-1-yl)cyclohexanol | 2.44 mmol, 598 mg, 61% | OC(C#CC1(CCCCC1)O)C1=CC=C(C=C1)C | C16H20O2
